US04827011
3-(Hexadecyloxy)-2-(phenylmethoxy)-1-butanol
To a suspension of 5.01 g of 50% sodium hydride in 100 ml of dimethylformamide containing 15.79 g of benzyl bromide at 0° C., was added 46 g of 3-(hexadecyloxy)-1-(triphenylmethoxy)-2-butanol in 50 ml of dimethylformamide. This mixture was stirred overnight at room temperature then poured into water and extracted with petroleum ether. The organic extract was dried and the solvent removed. The residue was dissolved in a mixture of 190 ml of methanol and 100 ml of tetrahydrofuran, then 400 mg of p-toluenesulfonic acid was added. This mixture was allowed to stand overnight, then the solvent was removed. The residue was dissolved in petroleum ether, washed wtih saturated aqueous sodium bicarbonate, dried and the solvent removed, giving and oil. This oil was purified by HPLC using the system hexane:ethyl acetate (9:1), giving 21.84 g of the desired compound as an oil.

reactant | sodium hydride | 5.01 g | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-(hexadecyloxy)-1-(triphenylmethoxy)-2-butanol | 46 g | C(CCCCCCCCCCCCCCC)OC(C(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C39H56O3
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml, 15.79 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(Hexadecyloxy)-2-(phenylmethoxy)-1-butanol | 21.84 g | C(CCCCCCCCCCCCCCC)OC(C(CO)OCC1=CC=CC=C1)C | C27H48O3
